US07470680B2
tert-butyl 4-(2-oxo-1,2,4,5-tetrahydropyrido[3,2-d][1,3]diazepin-3-yl)piperidine-1-carboxylate.
tert-Butyl 4-(2-(3-nitropyridin-2-yl)ethylamino)piperidine-1-carboxylate (0.864 g, 2.466 mmol) was dissolved in methanol (50 ml). 10% Palladium on carbon (0.3 g, 0.28 mmol) was added to the mixture. Reaction vessel was placed on a Parr apparatus and charged with 2 atm hydrogen gas. Reaction shook at room temperature for 16 hours. The reaction mixture was twice filtered through a pad of celite. Filtrate was concentrated to yield tan solid. Residue (808 mg, 2.52 mmol) was dissolved in acetonitrile (200 mL). Triethylamine was added to the mixture (1.05 mL, 7.56 mmol) followed by N,N′-carbonyldiimidazole (0.50 g, 3.08 mmol). Reaction stirred at room temperature for 5 hours. More N,N′-carbonyldiimidazole (0.50 g, 3.08 mmol) was added to the mixture. Reaction stirred at room temperature for 16 hours. More N,N′-carbonyldiimidazole (0.50 g, 3.08 mmol) was added to the reaction mixture followed by triethylamine (1.05 mL, 7.56 mmol). Reaction stirred at room temperature for 20 hours. More N,N′-carbonyldiimidazole (0.50 g, 3.08 mmol) was added to the mixture followed by triethylamine (0.50 mL, 3.58 mmol). Reaction stirred at room temperature for 68 hours. Mixture was concentrated by roto-vap. Silica gel chromatography eluting 2M ammonia in methanol-dichloromethane afforded the title compound as off-white solid in 93% yield. 1H NMR (500 MHz, CHLOROFORM-D) δ ppm 8.05-8.13 (m, 2 H) 7.21 (d, J=7.94 Hz, 1 H) 7.01 (dd, J=8.24, 4.58 Hz, 1 H) 4.29-4.44 (m, 1 H) 4.19 (bs, 2 H) 3.44-3.51 (m, 2 H) 3.08-3.17 (m, 2 H) 2.76 (m, 2 H) 1.71 (d, J=10.99 Hz, 2 H) 1.53-1.65 (m, 2 H) 1.42 (s, 9 H).

reactant | tert-Butyl 4-(2-(3-nitropyridin-2-yl)ethylamino)piperidine-1-carboxylate | 2.466 mmol, 0.864 g | [N+](=O)([O-])C=1C(=NC=CC1)CCNC1CCN(CC1)C(=O)OC(C)(C)C | C17H26N4O4
reactant | hydrogen | [H][H] | H2
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 7.56 mmol, 1.05 mL | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 3.58 mmol, 0.50 mL | C(C)N(CC)CC | C6H15N
reactant | methanol | 50 ml | CO | CH4O
catalyst | Palladium on carbon | 0.28 mmol, 0.3 g | [Pd] | Pd
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | tert-butyl 4-(2-oxo-1,2,4,5-tetrahydropyrido[3,2-d][1,3]diazepin-3-yl)piperidine-1-carboxylate | 93% yield | O=C1N(CCC2=C(N1)C=CC=N2)C2CCN(CC2)C(=O)OC(C)(C)C | C18H26N4O3
